US05840726
(S)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine hydrochloride salt
Dissolve (S)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine (0.545 g, 1.64 mmol) in dichloromethane (20 mL). Cool to 0° C. Pass hydrochloride gas through the solution for 15 minutes. Evaporate in vacuo to obtain a residue. Triturate with diethyl ether to give a solid. Filter and dry in vacuo to give the title compound. Elem. Anal. calculated for C21H23N3O.HCl.0.8 H2O: C, 65.74; H, 6.70; N, 10.95. Found: C, 66.14; H, 6.96; N, 10.57. Specific rotation [α]2D0 =-104° (c=1.00, DMSO).

reactant | (S)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine | 1.64 mmol, 0.545 g | N1C=C(C2=CC=CC=C12)C[C@H]1C(N(CCN1)CCC1=CC=CC=C1)=O | C21H23N3O
reactant | hydrochloride | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine hydrochloride salt | Cl.N1C=C(C2=CC=CC=C12)C[C@H]1C(N(CCN1)CCC1=CC=CC=C1)=O | InChI=1S/C21H23N3O.ClH/c25-21-20(14-17-15-23-19-9-5-4-8-18(17)19)22-11-13-24(21)12-10-16-6-2-1-3-7-16;/h1-9,15,20,22-23H,10-14H2;1H/t20-;/m0./s1
